US09085583B2
To dry THF (20 mL) was added NaH (60% in mineral oil, 2.37 g, 59.14 mmol). Then the mixture was stirred at 27° C. for 20 minutes, then tert-butyl 1-(3-hydroxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (3.0 g, 9.86 mmol) was added. The mixture was stirred at 27° C. for 1 hour, then added by CH3I (13.99 g, 98.6 mmol). The mixture was stirred for 12 hours at 27° C. and then cooled to 0° C. Sat. NH4Cl was added and extracted with CH2Cl2. The extraction was dried over sodium sulfate, filtered and concentrated to give tert-butyl-1-(3-methoxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate as a yellow oil. (3.2 g, yield 100%) LCMS (M+H+) m/z: calcd. 319.41. found 318.9.

reactant | NaH | 59.14 mmol, 2.37 g | [H-].[Na+]
reactant | tert-butyl 1-(3-hydroxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 9.86 mmol, 3.0 g | OC(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)C | C17H24N2O3
reactant | CH3I | 98.6 mmol, 13.99 g | CI | CH3I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl-1-(3-methoxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | yield 100% | C(C)(C)(C)OC(=O)C1=C(N(C2=NC=CC=C21)C(C)C(C)OC)C | C18H26N2O3
